US08383652B2
1.6 g (4.3 mmol) of ethyl (E)-3-(4-iodo-3-propoxyphenyl)-2-methylacrylate are dissolved in 10 mL of a 4/1v/v mixture of dimethylformamide and of aqueous 2 M potassium phosphate solution. 0.9 g (5.7 mmol) of 3-methylaminophenylboronic acid prepared as described in Example 31e, 58 mg (0.2 mmol) of palladium acetate and 152 mg (0.4 mmol) of dicyclohexylbiphenylphosphine are added. The mixture is stirred for 3 hours at 90° C. After cooling and adding water, the medium is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with an 8/2 heptane/ethyl acetate mixture. 1.0 g (65%) of ethyl (E)-2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate is obtained.

reactant | ethyl (E)-3-(4-iodo-3-propoxyphenyl)-2-methylacrylate | 4.3 mmol, 1.6 g | IC1=C(C=C(C=C1)/C=C(/C(=O)OCC)\C)OCCC | C15H19IO3
reactant | 3-methylaminophenylboronic acid | 5.7 mmol, 0.9 g | CNC=1C=C(C=CC1)B(O)O | C7H10BNO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | potassium phosphate | 2 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.2 mmol, 58 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (E)-2-methyl-3-(3′-methylaminobiphenyl-4-yl)acrylate | 1.0 g, 65% | C/C(/C(=O)OCC)=C\C1=CC=C(C=C1)C1=CC(=CC=C1)NC | C19H21NO2
